US08076336B2
d) 3-Acetylamino-N-methoxy-N-methyl-5-(pentafluorosulfanyl)benzamide
3-Amino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide (1.2 g) was dissolved in methylene chloride (15 ml), and triethylamine (0.7 ml) followed by acetic anhydride (1.75 ml) were added while stirring with exclusion of moisture. After stirring at RT for 3 h, water and saturated sodium hydrogencarbonate solution were added, the phases were separated and the methylene chloride phase was washed three times more with water, dried over magnesium sulfate, filtered and concentrated. The resulting product (1.3 g) was used in the next stage without further purification.

reactant | 3-Amino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide | 1.2 g | NC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C9H11F5N2O2S
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.75 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-Acetylamino-N-methoxy-N-methyl-5-(pentafluorosulfanyl)benzamide | C(C)(=O)NC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C11H13F5N2O3S
